US09353117B2
Pentane-2,4-dione (1.46 ml, 14.2 mmol), ethyl 3-amino-1H-pyrazole-4-carboxylate (2.00 g, 12.9 mmol) were heated in a sealed tube with acetic acid (10 ml) at 110° C. overnight. The reaction reached completion by LCMS (LC-MS: rt (min)=3.08). The acetic acid was removed by blowing air with the flask being heated to 75° C. The crude residue of ethyl 5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-carboxylate (assumed to be 12.89 mmol) was suspended in MeOH (15 ml) and treated with 7.2 M sodium hydroxide (5.37 ml, 38.7 mmol). The mixture was heated to 80° C. (at this temperature the solid dissolved) and then stirred for 3 h. The reaction was cooled and the neutralized to pH 6-7. The slurry was filtered via a Büchner funnel under house vacuum, the solid residue was washed with water and then diethyl ether to obtain 5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid (1.4 g, 7.3 mmol, 57% yield). LC-MS: rt (min)=2.61. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.57 (s, 3H), 2.71 (s, 3H), 7.10 (s, 1H), 8.50 (s, 1H).

reactant | Pentane-2,4-dione | 14.2 mmol, 1.46 ml | CC(CC(C)=O)=O | C5H8O2
reactant | ethyl 3-amino-1H-pyrazole-4-carboxylate | 12.9 mmol, 2.00 g | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | ethyl 5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-carboxylate | 12.89 mmol | CC1=NC=2N(C(=C1)C)N=CC2C(=O)OCC | C11H13N3O2
reactant | sodium hydroxide | 38.7 mmol, 7.2 M, 5.37 ml | [OH-].[Na+]
solvent | MeOH | 15 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 7.3 mmol, 1.4 g, 57% yield | CC1=NC=2N(C(=C1)C)N=CC2C(=O)O | C9H9N3O2
